US07250518B2
(3-Fluoro-4-hydroxy-phenyl)-acetic acid ethyl ester of Formula (6.0.11):
(3-Fluoro-4-hydroxy-phenyl)-acetic acid (20.03 g) was dissolved in ethanol (100 mL), and conc. sulfuric acid (1 mL) was added to the solution. The solution was heated to 85° C. for 16 h. The reaction mixture was allowed to cool and evaporated to dryness in vacuo to yield the crude title compound (24.2 g). An aliquot of the crude product was purified by silica gel chromatography (ethyl acetate:hexanes=3:7) for full characterization of the title compound.

reactant | (3-Fluoro-4-hydroxy-phenyl)-acetic acid | 20.03 g | FC=1C=C(C=CC1O)CC(=O)O | C8H7FO3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | (3-Fluoro-4-hydroxy-phenyl)-acetic acid ethyl ester | 24.2 g | C(C)OC(CC1=CC(=C(C=C1)O)F)=O | C10H11FO3
